US09428457B2
Preparation 5: (2R,4R)-4-Amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid
1 M aqueous HCl (2.0 mmol) was added to (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (150.0 mg, 431 μmol) and the mixture was stirred at 100° C. for 2 hours. The mixture was concentrated under vacuum for 3 hours and the residue was purified by reverse phase preparative HPLC to yield the title compound (117 mg) as a white solid.

reactant | HCl | 2.0 mmol, 1 M | Cl | ClH
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 431 μmol, 150.0 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
product | (2R,4R)-4-Amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid | 117 mg | N[C@@H](C[C@H](C(=O)O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl | C17H18ClNO3
